US09023847B2
92. (R)-2-({[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}methyl)pyrrolidine-1-carboxylic acid tert-butyl ester
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide using (R)-2-(aminomethyl)-1-N-BOC-pyrrolidine instead of tert-butyl-2-amino ethyl carbamate. LCMS (ESI) 442 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.52 (1H, br. s.) 10.48 (1H, br. s.) 10.24 (1H, br. s.) 8.17 (1H, br. s.) 8.02 (1H, d, J=5.47 Hz) 7.79 (1H, d, J=5.27 Hz) 7.44-7.54 (1H, m) 7.31 (1H, d, J=2.73 Hz) 6.82 (1H, br. s.) 6.41 (1H, br. s.) 3.93 (1H, br. s.) 3.39 (1H, br. s.) 3.23 (2H, br.s.) 1.67-1.88 (4H, m) 1.39 (9H, s)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C14H15N5OS
reactant | (R)-2-(aminomethyl)-1-N-BOC-pyrrolidine | NC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
product | (R)-2-({[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}methyl)pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C22H27N5O3S
